US07960544B2
Reaction of tri-n-butylstannyl lithium with 2-chloropyrimidine affords 2-(tributylstannyl)pyrimidine which can be condensed the an acid chloride such as 5 under palladium catalysis to afford these desired ketones.

reactant | tri-n-butylstannyl lithium | C(CCC)[Sn](CCCC)(CCCC)[Li]
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-(tributylstannyl)pyrimidine | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC | InChI=1S/C4H3N2.3C4H9.Sn/c1-2-5-4-6-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
